US08258129B2
c) 2-(1-trityl-1H-imidazol-4-yl)-propylamine
3.2 g 2-(1-trityl-1H-imidazol-4-yl)-propionitrile are dissolved in 150 mL methanolic ammonia (7 mol/L) and Raney nickel is added. After 12 h and 4 bar H2 pressure the catalyst is filtered off and the solvent is eliminated in vacuo. This crude product is used in the following reaction step without further purification.

reactant | 2-(1-trityl-1H-imidazol-4-yl)-propionitrile | 3.2 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1C=NC(=C1)C(C#N)C | C25H21N3
solvent | ammonia | 7 mol/L, 150 mL | N | H3N
catalyst | Raney nickel | [Ni] | Ni
product | 2-(1-trityl-1H-imidazol-4-yl)-propylamine | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1C=NC(=C1)C(CN)C | C25H25N3
